US07666871B2
2-Methoxy-5-{4-[5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazol-2-yl]-phenyl}-pyrimidine
The title compound is prepared in a manner substantially analogous to Example 45 starting from 2-Methoxy-5-pyrimidine boronic acid and 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole. MS (m/e): 365.2 (M+1)

reactant | 2-Methoxy-5-pyrimidine boronic acid | COC1=NC=C(C=N1)B(O)O | C5H7BN2O3
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C16H19BrN2O
product | 2-Methoxy-5-{4-[5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazol-2-yl]-phenyl}-pyrimidine | COC1=NC=C(C=N1)C1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C21H24N4O2
